* E:\Git\Group Project\EEE3-Instrumentation\Simulations\Buffer\buffer.asc
XU1 N003 N004 N003 opamp Aol=100K GBW=10Meg
V1 N004 0 SINE(0 1 1Meg)
V2 V+ 0 18
V3 0 V- 18
D3 NC_01 NC_02 1N4148
R3 N005 N007 1k
R4 N003 N005 15k
R5 N002 N003 1k
R6 N001 N002 15k
I1 V+ N001 1m
I2 N007 V- 1m
M4 N006 N007 V- V- IRFP9240
M2 N001 N002 N003 N003 IRF510
M3 N003 N005 N007 N007 IRF510
C1 N003 N007 1µ
C2 N001 N003 1µ
M1 V+ N001 N006 N006 IRF510
.model D D
.lib C:\Users\harry\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\harry\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 5u 0 1u
.model D D(Ron=1m Roff=10Meg Vfwd=17.3 Vrev=100)
.lib opamp.sub
.backanno
.end
